US05242912
N-acetyl-5-bromo-7-cyanoindoline
Into 6N hydrochloric acid (178.5 ml) was suspended N-acetyl-7-amino-5-bromoindoline (51.0 g), and aqueous solution (212 ml) of sodium nitrite (21.2 g) was dropwise added thereto under cooling with stirring over 30 minutes and at the inside temperature of not higher than -1° C. After stirred for 30 minutes at the temperature as such, sodium carbonate was added to the reaction mixture to neutralize it. This reaction mixture was poured into aqueous solution (200 ml) of copper cyanide (27.5 g) and sodium cyanide (30.7 g), and the mixture was allowed to stand for one night at room temperature. The reaction mixture was again subjected to stirring for 30 minutes at the inside temperature of 50° C. and was cooled to give a deposited crystal, which was then collected by filtration, washed with water and dried. The crude crystal was recrystallized from acetonitrile to give the intended compound 43.0 g (81.1%). M.P.: 170°-175° C.

reactant | hydrochloric acid | 6N, 178.5 ml | Cl | ClH
reactant | N-acetyl-7-amino-5-bromoindoline | 51.0 g | C(C)(=O)N1CCC2=CC(=CC(=C12)N)Br | C10H11BrN2O
reactant | sodium nitrite | 212 ml, 21.2 g | N(=O)[O-].[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium cyanide | 30.7 g | [C-]#N.[Na+]
solvent | copper cyanide | 200 ml, 27.5 g | [Cu](C#N)C#N
product | N-acetyl-5-bromo-7-cyanoindoline | 43.0 g, 81.1% | C(C)(=O)N1CCC2=CC(=CC(=C12)C#N)Br | C11H9BrN2O
